US04474692
By reacting 8.2 g of N-(indan-2-yl)glycine tert-butyl ester with 13 g of Nα -tert-butoxycarbonyl-Nε -carbobenzoxy-L-lysine as in Reference Example 5, there is obtained 14 g of Nα -tert-butoxycarbonyl-Nε -carbobenzoxy-L-lysyl-N-(indan-2-yl)glycine tert-butyl ester as a colorless oil.

reactant | N-(indan-2-yl)glycine tert-butyl ester | 8.2 g | C(C)(C)(C)OC(CNC1CC2=CC=CC=C2C1)=O | C15H21NO2
reactant | Nα -tert-butoxycarbonyl-Nε -carbobenzoxy-L-lysine | 13 g | C(C)(C)(C)OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C19H28N2O6
product | Nα -tert-butoxycarbonyl-Nε -carbobenzoxy-L-lysyl-N-(indan-2-yl)glycine tert-butyl ester | 14 g | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](NC(=O)OC(C)(C)C)CCCCNC(=O)OCC1=CC=CC=C1)=O)=O | C34H47N3O7
